US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-N-(1,5-dimethyl-1H-pyrazol-3-yl)-5-[(1S)-2-hydroxy-1-methylethoxy]benzamide
3.5M Hydrochloric acid (1.0 mL) was added to a solution of 3-[4-(azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(1,5-dimethyl-1H-pyrazol-3-yl)benzamide (232 mg, 0.4 mmol) in methanol (10 mL). The reaction mixture was stirred for 45 minutes then saturated sodium bicarbonate added until the pH was adjusted to 7. The mixture was reduced in vacuo. The residue was dissolved in ethyl acetate (50 mL), washed water (25 mL) and brine (25 mL). Dried (MgSO4) and reduced to a white foam. The crude product was purified by chromatography on silica, eluting with 0-10% methanol in ethyl acetate, to obtain the required product as a white foam (123 mg).

reactant | Hydrochloric acid | 3.5M, 1.0 mL | Cl | ClH
reactant | 3-[4-(azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(1,5-dimethyl-1H-pyrazol-3-yl)benzamide | 0.4 mmol, 232 mg | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C(=C3)C)C)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1 | C31H42N4O5Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-N-(1,5-dimethyl-1H-pyrazol-3-yl)-5-[(1S)-2-hydroxy-1-methylethoxy]benzamide | 123 mg | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C(=C3)C)C)C=C(C2)O[C@H](CO)C)C=C1 | C25H28N4O5
